US05545636
3-[1-(1-Methyl-piperidin-4-yl)-indol-3-yl]-4-(1-methyl-indol-3-yl)-1H-pyrrole-2,5-dione hydrochloride
An ice cooled solution of 3-[1-(1-methyl-piperidin-4-yl)-1H-indol-3-yl]-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione (70 g, 0.16 mol) in ethyl acetate (4 L) was saturated with gaseous hydrogen chloride for 3 hours. The precipitate formed was isolated by suction filtration, suspended in methanol (3 L) and stirred for 30 minutes. The mixture turned into a homogenous slurry, which was concentrated and treated with ether (500 mL). The title compound crystallized and was collected by suction filtration. The filter was vacuum dried over night (100° C./0.1 mm. Yield 70 g (92% of theory). M.Pt.: 280°-282° C.

reactant | 3-[1-(1-methyl-piperidin-4-yl)-1H-indol-3-yl]-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 0.16 mol, 70 g | CN1CCC(CC1)N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C27H26N4O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 4 L | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 L | CO | CH4O
product | 3-[1-(1-Methyl-piperidin-4-yl)-indol-3-yl]-4-(1-methyl-indol-3-yl)-1H-pyrrole-2,5-dione hydrochloride | Cl.CN1CCC(CC1)N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | InChI=1S/C27H26N4O2.ClH/c1-29-13-11-17(12-14-29)31-16-21(19-8-4-6-10-23(19)31)25-24(26(32)28-27(25)33)20-15-30(2)22-9-5-3-7-18(20)22;/h3-10,15-17H,11-14H2,1-2H3,(H,28,32,33);1H
